US05476933
6,7,8,9-Tetrahydro-7,8-dichloro-6-ethyl-3-hydroxy-1H-1-benzazepine-2,5-dione.
To a stirred suspension of 6,7,8,9-tetrahydro-7,8-dichloro-6-ethyl-3-methoxy-1H-1-benzazepine-2,5-dione (525 mg, 1.73 mmol) in dry CH2Cl2 (60 mL, from CaH2) under N2, a solution of BBr3 in CH2Cl2 (10 mL, 1M, Aldrich) was added over 10 s. The suspension turned orange, then a yellow solution was observed which transformed to a yellow suspension. The suspension was allowed to stir under N2 for 1 h. The reaction was added to saturated NaHCO3 (200 mL) and was allowed to stir for 10 min. A pink emulsion was obtained. The emulsion was vacuum filtered (changed filter papers frequently, saved) to give a pink solution. The solution was washed with CH2Cl2 (2×50 mL). The pH of the aqueous portion was adjusted to 2 with concd HCl. The resulting precipitate was collected and washed with water (6×2 mL). The damp filter cake was crystallized from 95% EtOH (dissolved in boiling solvent (100 mL), hot filtered, coned to 40 mL, allowed to cool to rt) to give a pale beige solid (62 mg, 12%, a mixture of diastereomers by NMR (8:2)); mp 197° C. (dec, preheat to 195° C.); tH NMR (DMSO-d6 and D2O) δ0.75 (overlapping t, 3H), 1.22-1.77 (overlapping m, 2H), 2.94 (m, 1H), 3.11 (dd, J1 =4.8 Hz, J2 =17.1 Hz, 1H), 3.37 (overlapping m, 1H), 4.20 (dd, J1 =5.7 Hz, J2 =9.3 Hz, 1H), 4.34-4.61 (overlapping m, 1H), 6.32 and 6.33 (overlapping s, 1H), the spectrum without D2O displayed additional resonances at 10.45 (bs, 1H), 10.99 and 11.05 (overlapping s, 1H); IR (KBr) 3305, 3207, 3097, 2990, 1679, 1647, 1612, 1553, 1399, 1284, 1229, 912 cm-1.

reactant | 6,7,8,9-tetrahydro-7,8-dichloro-6-ethyl-3-methoxy-1H-1-benzazepine-2,5-dione | 1.73 mmol, 525 mg | ClC1C(CC2=C(C(C=C(C(N2)=O)OC)=O)C1CC)Cl | C13H15Cl2NO3
reactant | BBr3 | B(Br)(Br)Br | BBr3
reactant | NaHCO3 | 200 mL | C(=O)(O)[O-].[Na+]
reactant | KBr | [K+].[Br-]
solvent | CH2Cl2 | 60 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1M, 10 mL | C(Cl)Cl | CH2Cl2
product | 6,7,8,9-Tetrahydro-7,8-dichloro-6-ethyl-3-hydroxy-1H-1-benzazepine-2,5-dione | ClC1C(CC2=C(C(C=C(C(N2)=O)O)=O)C1CC)Cl | C12H13Cl2NO3
